US07893090B2
(RS)-1-(2-Benzothiazol-2-ylmethylpiperidin-1-yl)-1-[2-(3-methyl-[1,2,4]oxadiazol-5-yl)phenyl]-methanone
The title compound (0.170 g) was prepared from 2-piperidin-2-ylmethyl-benzothiazole, D30 (0.135 g), and 2-(3-methyl-[1,2,4]oxadiazol-5-yl)benzoic acid (0.126 g) using the procedure described in Example 60.

reactant | 2-piperidin-2-ylmethyl-benzothiazole | N1C(CCCC1)CC=1SC2=C(N1)C=CC=C2 | C13H16N2S
reactant | 2-(3-methyl-[1,2,4]oxadiazol-5-yl)benzoic acid | 0.126 g | CC1=NOC(=N1)C1=C(C(=O)O)C=CC=C1 | C10H8N2O3
product | (RS)-1-(2-Benzothiazol-2-ylmethylpiperidin-1-yl)-1-[2-(3-methyl-[1,2,4]oxadiazol-5-yl)phenyl]-methanone | 0.170 g | S1C(=NC2=C1C=CC=C2)CC2N(CCCC2)C(=O)C2=C(C=CC=C2)C2=NC(=NO2)C | C23H22N4O2S
